US05637619
Synthesis of 1,2-bis(methylsulfonyl)-1-(2-chloroethyl)-2-(2-chloroethyl)aminocarbonylhydrazine (III)
To a stirred solution of 1,2-bis(methylsulfonyl)-1-(2-chloroethyl)hydrazine (Shyam, et al.,J. Med. Chem., 1990, 33, 2259-2264) (2.5 g, 0.010 mol) and 2-chloroethyl isocyanate (1.2 g, 0.011 mol) in dry acetonitrile (100 mL) was added triethylamine (1.1 g, 0.011 mol) at room temperature. After an additional 10 min, the reaction mixture was evaporated to dryness in vacuo. The residue was triturated twice with 15 mL quantities of petroleum ether and the petroleum ether layer was discarded each time. The residue was then taken up in ethyl acetate (150 mL) and washed with dilute hydrochloric acid (3×15 mL). The ethyl acetate layer was dried over anhydrous magnesium sulfate and filtered. Upon evaporation of the solvent, a semi-solid residue was obtained which, upon trituration with absolute ethanol, gave a white solid. Recrystallization from ethanol afforded 1.5 g (42.2%) of the title compound: mp 96°-97.5° C.; 1H NMR (acetone-d6) δ 7.0 (br, 1 H, NH), 3.7-4.2 (m, 4 H, SO2NCH2CH2Cl ), 3.5-3.7 (m, 4H, CONHCH2CH2Cl), 3.5 and 3.3 (2s, 6 H, 2 CH3). Anal. (C7H15C12N3O5S2) C, H, N.

reactant | 1,2-bis(methylsulfonyl)-1-(2-chloroethyl)hydrazine | CS(=O)(=O)N(NS(=O)(=O)C)CCCl | C4H11ClN2O4S2
reactant | 2-chloroethyl isocyanate | 0.011 mol, 1.2 g | ClCCN=C=O | C3H4ClNO
reactant | triethylamine | 0.011 mol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | C(C)O | C2H6O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1,2-bis(methylsulfonyl)-1-(2-chloroethyl)-2-(2-chloroethyl)aminocarbonylhydrazine | 1.5 g, 42.2% | CS(=O)(=O)N(N(C(=O)NCCCl)S(=O)(=O)C)CCCl | C7H15Cl2N3O5S2
